### PR TITLE
Add facts about single-variable degree-2 polynomials

### PR DESCRIPTION
**Pull request by proux01**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/ssrnum.v [hunk 1]
```diff
@@ -5610,6 +5610,134 @@ Arguments sqrCK_P {C x}.
...
+Hypothesis agt0 : 0 < a.
+
+Let a2_gt0 : 0 < 2 * a. Proof. by rewrite mulr_gt0 ?ltr0n. Qed.
+Let a4_gt0 : 0 < 4 * a. Proof. by rewrite mulr_gt0 ?ltr0n. Qed.
+Let aa4_gt0 : 0 < 4 * a * a. Proof. by rewrite mulr_gt0. Qed.
+Let sqa2_gt0 : 0 < (2 * a) ^+ 2. Proof. by rewrite exprn_gt0. Qed.
+Let a_neq0 : a != 0. Proof. exact: lt0r_neq0. Qed.
+Let a2_neq0 : 2 * a != 0. Proof. exact: lt0r_neq0. Qed.
+
+Lemma deg2_poly_canonical x :
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5635]: this does not need the `rcfType` just `fieldType`?

File: mathcomp/algebra/ssrnum.v [hunk 2]
```diff
@@ -5610,6 +5610,134 @@ Arguments sqrCK_P {C x}.
 #[global] Hint Extern 0 (is_true (in_mem ('Im _) _)) =>
   solve [apply: Creal_Im] : core.
 
+Section Degree2Poly.
+
+Variables (F : rcfType) (a b c : F).
+
+Let p := a *: 'X^2 + b*: 'X + c%:P.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5617]: Just a little reaction about the general setting 

I would have either put `size p = 2` and then give the exact form with `p_0` `p_1` `_2` 
or  `'X^2 + b *: X + c%:P` as you are in a rcfType. Why you choose this explict form?

File: mathcomp/algebra/ssrnum.v [hunk 3]
```diff
@@ -5610,6 +5610,134 @@ Arguments sqrCK_P {C x}.
...
+
+Let delta := b^+2 - 4 * a * c.
+
+Let aa4 : 4 * a * a = (2 * a)^+2.
+Proof. by rewrite (_ : 4 = 2 * 2) -1?mulrA 1?mulrACA ?expr2// -natrM. Qed.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5622]:
```coq 
by rewrite expr2 mulrACA mulrA -natrM.
```

File: mathcomp/algebra/ssrnum.v [hunk 4]
```diff
@@ -5610,6 +5610,134 @@ Arguments sqrCK_P {C x}.
...
+Qed.
+
+Lemma deg2_poly_root1 : 0 <= delta -> root p ((- b - sqrt delta) / (2 * a)).
+Proof.
+move=> dge0; rewrite rootE deg2_poly_canonical !hornerE/= mulf_eq0.
+apply/orP; right; rewrite subr_eq0 -mulrDl aa4 -addrA addrC addrK.
+by rewrite expr_div_n sqrrN sqr_sqrtr.
+Qed.
+
+Lemma deg2_poly_root2 : 0 <= delta -> root p ((- b + sqrt delta) / (2 * a)).
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5681]: Is there not a theorem that states the usual factorization of `p` when `delta` is positive?

File: mathcomp/algebra/ssrnum.v [hunk 5]
```diff
@@ -5610,6 +5610,134 @@ Arguments sqrCK_P {C x}.
...
+Let p := a *: 'X^2 + b*: 'X + c%:P.
+
+Let delta := b^+2 - 4 * a * c.
+
+Let aa4 : 4 * a * a = (2 * a)^+2.
+Proof. by rewrite (_ : 4 = 2 * 2) -1?mulrA 1?mulrACA ?expr2// -natrM. Qed.
+
+Section Agt0.
+
+Hypothesis agt0 : 0 < a.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5626]: what about when `a` is negative, would it be more general to take `p` as `monic`?

File: mathcomp/algebra/ssrnum.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssrnum.v:5681]: Here: https://github.com/math-comp/real-closed/blob/master/theories/complex.v#L733-L760
I guess it should be renamed and backported.

**Comment by CohenCyril** [comment]
Great... I think this would all be easier on top of real-closed (which explains the relation between a polynomial and its derivative, in terms of roots and variations).

File: mathcomp/algebra/ssrnum.v (hunk 4 above)
Comment (thery) [reply mathcomp/algebra/ssrnum.v:5681]: weird that the monic version is derived from the general one, I would have thought the overway around would have been simpler

File: mathcomp/algebra/ssrnum.v (hunk 1 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: Indeed, well actually `numFieldType` because we need `4 != 0`.

File: mathcomp/algebra/ssrnum.v (hunk 2 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: Indeed, that seems better, did that.

File: mathcomp/algebra/ssrnum.v (hunk 4 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: The factoring lemma from real-closed is now integrated in the PR, thanks.

I would also have thought that doing min first would be more convenient but in fact it seems to rather be the other way round (my code was about 10% longer when proving monic version first end deriving generic version then).

**Comment by proux01** [comment]
Thanks for your reviews, here is a new version that take them into account. Indeed, the sign lemmas are probably easier to do in real-closed so I didn't add too many of them.

File: mathcomp/algebra/ssrnum.v [hunk 6]
```diff
@@ -5610,6 +5610,437 @@ Arguments sqrCK_P {C x}.
...
+
+Let pE : p = a *: 'X^2 + b *: 'X + c%:P.
+Proof.
+apply/polyP => + /[!coefE] => -[|[|[|i]]] /=; rewrite !Monoid.simpm//.
+by rewrite nth_default// degp.
+Qed.
+
+Let delta := b ^+ 2 - 4 * a * c.
+
+Lemma deg2_poly_canonical :
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5642]: This is true for `F = fieldType`

Comment (proux01) [reply mathcomp/algebra/ssrnum.v:5642]: How do you prove it? As I said above, at some point I need `4 != 0` and I don't know how to easily prove that for any `fieldType`.

File: mathcomp/algebra/ssrnum.v [hunk 7]
```diff
@@ -5610,6 +5610,437 @@ Arguments sqrCK_P {C x}.
...
+Let aneq0 : a != 0.
+Proof. by move: pneq0; rewrite -lead_coef_eq0 lead_coefE degp. Qed.
+Let a2neq0 : 2 * a != 0. Proof. by rewrite mulf_neq0 ?pnatr_eq0. Qed.
+Let sqa2neq0 : (2 * a) ^+ 2 != 0. Proof. exact: expf_neq0. Qed.
+
+Let aa4 : 4 * a * a = (2 * a)^+2.
+Proof. by rewrite expr2 mulrACA mulrA -natrM. Qed.
+
+Let pE : p = a *: 'X^2 + b *: 'X + c%:P.
+Proof.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:5635]:
```coq
rewrite addrC [X in _ + X]addrC addrA -alg_polyC. 
by rewrite -[p]coefK poly_def degp !(big_ord1, big_ord_recr) /= expr0 expr1.
```

File: mathcomp/algebra/ssrnum.v (hunk 6 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v:5642]: In fact it only requires `2 != 0` but that doesn't hold for any field (for instance, the field of boolean that you recently added :wink: ).

File: mathcomp/algebra/ssrnum.v [hunk 8]
```diff
@@ -5610,6 +5610,437 @@ Arguments sqrCK_P {C x}.
...
+Hypothesis degp : size p = 3%N.
+Hypothesis monicp : p \is monic.
+
+Let a := p`_2.
+Let b := p`_1.
+Let c := p`_0.
+
+Let a1 : a = 1. Proof. by move: (monicP monicp); rewrite lead_coefE degp. Qed.
+
+Lemma deg2_poly_monic_canonical :
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: `ringType` would require to assume the existence of `2^-1`, maybe a bit too much of a generalization?

File: mathcomp/algebra/ssrnum.v (hunk 7 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: Nice alternative proof but what's the gain? (it's a tad longer than the one I provided)

Sidenote: for this kind of comments, don't hesitate to use github's "suggestion" button (the one marked +/- between "Preview" and "H B I")

**Comment by proux01** [comment]
Thanks for the generalization suggestion, I applied it.

**Comment by thery** [comment]
Look good to me

**Review by CohenCyril — APPROVED** [review]
I approve of the contents. We can merge once the changelog is provided.

File: mathcomp/algebra/poly.v [hunk 9]
```diff
@@ -2940,6 +2949,116 @@ move=> a0; rewrite rootE !hornerE.
...
+  by rewrite scale_polyC mulrCA mulrACA aa4 mulrCA mulfV// mulr1.
+Qed.
+
+Variable r : F.
+Hypothesis r_sqrt_delta : r ^+ 2 = delta.
+
+Let r1 := (- b - r) / (2 * a).
+Let r2 := (- b + r) / (2 * a).
+
+Lemma deg2_poly_factored : p = a *: ('X - r1%:P) * ('X - r2%:P).
```
Comment (CohenCyril) [inline mathcomp/algebra/poly.v:3004]:
```suggestion
Lemma deg2_poly_factor : p = a *: ('X - r1%:P) * ('X - r2%:P).
```
maybe?

File: mathcomp/algebra/ssrnum.v [hunk 10]
```diff
@@ -5610,6 +5610,332 @@ Arguments sqrCK_P {C x}.
...
+Let a4gt0 : 0 < 4 * a. Proof. by rewrite mulr_gt0 ?ltr0n. Qed.
+Let aa4gt0 : 0 < 4 * a * a. Proof. by rewrite mulr_gt0 ?ltr0n. Qed.
+
+Let xb4 x : (x + b / (2 * a)) ^+ 2 * (4 * a * a) = (x * (2 * a) + b) ^+ 2.
+Proof.
+have -> : 4 * a * a = (2 * a) ^+ 2 by rewrite expr2 mulrACA -natrM mulrA.
+by rewrite -exprMn mulrDl mulfVK ?mulf_neq0 ?pnatr_eq0.
+Qed.
+
+Lemma deg2_poly_lt_root1 x : x < r1 -> 0 < p.[x].
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:5803]:
```suggestion
Lemma deg2_poly_gt0l x : x < r1 -> 0 < p.[x].
```
maybe?

File: mathcomp/algebra/ssrnum.v [hunk 11]
```diff
@@ -5610,6 +5610,332 @@ Arguments sqrCK_P {C x}.
...
+move=> xltr1; have [? | dge0] := ltP delta 0; first exact: deg2_poly_gt0.
+have {}xltr1 : sqrt delta < - (x * (2 * a) + b).
+  by rewrite ltrNr -ltrBrDr addrC -ltr_pdivlMr.
+rewrite [p]deg2_poly_canonical// -/a -/b -/c -/delta !hornerE/=.
+rewrite mulr_gt0// subr_gt0 ltr_pdivrMr// xb4 -sqrrN.
+rewrite -ltr_sqrt ?sqrtr_sqr ?(lt_le_trans xltr1) ?ler_norm//.
+by rewrite exprn_gt0 ?(le_lt_trans _ xltr1) ?sqrtr_ge0.
+Qed.
+
+Lemma deg2_poly_gt_root2 x : r2 < x -> 0 < p.[x].
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:5814]:
```suggestion
Lemma deg2_poly_gt0r x : r2 < x -> 0 < p.[x].
```

File: mathcomp/algebra/ssrnum.v [hunk 12]
```diff
@@ -5610,6 +5610,332 @@ Arguments sqrCK_P {C x}.
...
+move=> xgtr2; have [? | dge0] := ltP delta 0; first exact: deg2_poly_gt0.
+have {}xgtr2 : sqrt delta < x * (2 * a) + b.
+  by rewrite -ltrBlDr addrC -ltr_pdivrMr.
+rewrite [p]deg2_poly_canonical// -/a -/b -/c -/delta !hornerE/=.
+rewrite mulr_gt0// subr_gt0 ltr_pdivrMr// xb4.
+rewrite -ltr_sqrt ?sqrtr_sqr ?(lt_le_trans xgtr2) ?ler_norm//.
+by rewrite exprn_gt0 ?(le_lt_trans _ xgtr2) ?sqrtr_ge0.
+Qed.
+
+Lemma deg2_poly_root1_root2 x : r1 < x < r2 -> p.[x] < 0.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:5825]:
```suggestion
Lemma deg2_poly_lt0 x : r1 < x < r2 -> p.[x] < 0.
```

Comment (CohenCyril) [reply mathcomp/algebra/ssrnum.v:5825]: +variants with `le0` and `ge0`

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Overall the PR looks good. I have a few renaming suggestion and the following remarks:
- usually one will only use one of the normal, numclosed or realclosed version at a time, so I suggest putting the results in modules to be imported on demand. (And if several versions are used then the desambiguation is done by the prefix module name.) This is the case in `poly.v` for several classes of results. Not sure the `monic` results fall into this category though (so one might preserve the name prefix).
- you provide the sign results for concave polynomials, shouldn't we also add the results for the convex ones?

File: mathcomp/algebra/ssrnum.v [hunk 13]
```diff
@@ -5610,6 +5616,534 @@ Arguments sqrCK_P {C x}.
...
+Variable (F : realFieldType) (p : {poly F}).
+Hypothesis degp : (size p <= 3)%N.
+
+Let a := p`_2.
+Let b := p`_1.
+Let c := p`_0.
+
+Let delta := b ^+ 2 - 4 * a * c.
+
+Lemma deg_le2_poly_ge0_ge0 : 0 <= a -> (forall x, 0 <= p.[x]) -> delta <= 0.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:6066]: What about
```suggestion
Lemma deg_le2_poly_delta_ge0 : 0 <= a -> (forall x, 0 <= p.[x]) -> delta <= 0.
```

**Comment by proux01** [comment]
@CohenCyril CI green

**Comment by CohenCyril** [comment]
> I added the label TODO: HB port to make sure someone ports this PR to
> the hierarchy-builder branch or I already opened an issue or PR (please cross reference).

@proux01 could you add the reference to the mathcomp 2 PR?

**Comment by CohenCyril** [comment]
> I added the label TODO: HB port to make sure someone ports this PR to
> the hierarchy-builder branch or I already opened an issue or PR (please cross reference).

@proux01 could you add the reference to the mathcomp 2 PR?

**Comment by proux01** [comment]
Done (it's the other way round since this PR was targetting the master branch)
